US08242145B2
Step 1: [3-(4-Chloro-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 24, Step 4, using the following starting materials: (3-hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester and 5-chloro-2-fluorobenzaldehyde.

reactant | (3-hydroxy-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)O)=O | C11H14O4
reactant | 5-chloro-2-fluorobenzaldehyde | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
product | [3-(4-Chloro-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Cl)C=O)=O | C18H17ClO5
